US05952382
(a) Preparation of methyl 4-[7-(1-adamantyl)-6-methoxyhexyloxy-2-naphthyl]benzoate
Following the procedure of Example 12(a), but reacting 870 mg (1.7 mmol) of methyl 4-[7-(1-adamantyl)-6-hydroxyhexyloxy-2-naphthyl]benzoate with 160 μl (1.7 mmol) of dimethyl sulphate, 100 mg (14%) of the expected compound were obtained, which compound had a melting point of 141°-3° C.

reactant | methyl 4-[7-(1-adamantyl)-6-hydroxyhexyloxy-2-naphthyl]benzoate | 1.7 mmol, 870 mg | C12(CC3CC(CC(C1)C3)C2)C2=CC=C3C=CC(=C(C3=C2)OCCCCCCO)C2=CC=C(C(=O)OC)C=C2 | C34H40O4
reactant | dimethyl sulphate | 1.7 mmol, 160 μl | S(=O)(=O)(OC)OC | C2H6O4S
product | methyl 4-[7-(1-adamantyl)-6-methoxyhexyloxy-2-naphthyl]benzoate | 100 mg, 14% | C12(CC3CC(CC(C1)C3)C2)C2=CC=C3C=CC(=C(C3=C2)OCCCCCCOC)C2=CC=C(C(=O)OC)C=C2 | C35H42O4
